US08138181B2
Step 2C: Preparation of (cis)-tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate:
Sodium azide (4.045 g, 62.22 mmol) was added to a solution of (trans)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate (3.700 g, 12.44 mmol) dissolved in DMF (25 mL). The reaction was heated to 115° C. for 24 hours. The mixture was cooled and diluted with water and methylene chloride. After separation, the organic layer was dried over Na2SO, filtered and concentrated in vacuo to provide the desired product (quantitative yield).

reactant | Sodium azide | 62.22 mmol, 4.045 g | [N-]=[N+]=[N-].[Na+]
reactant | (trans)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate | 12.44 mmol, 3.700 g | F[C@@H]1CN(CC[C@H]1OS(=O)(=O)C)C(=O)OC(C)(C)C | C11H20FNO5S
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (cis)-tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate | quantitative yield | N(=[N+]=[N-])[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)F | C10H17FN4O2
